US05430042
Preparation of 3-(3-methoxy-1-propoxy)-2-methyl-4-pyridone
A solution of 3-(3-methoxy-1-propoxy)-2-methyl-4-pyrone (0.31 g, 1.7 mmol) in 50 ml concentrated aqueous NH3 was heated to 120° C. for 2 h in an autoclave. The reaction mixture was transferred to a round bottomed flask and evaporation off the solvent afforded 0.32 g (100%) product as a yellow oil.

reactant | 3-(3-methoxy-1-propoxy)-2-methyl-4-pyrone | 1.7 mmol, 0.31 g | COCCCOC1=C(OC=CC1=O)C | C10H14O4
reactant | NH3 | 50 ml | N | H3N
product | 3-(3-methoxy-1-propoxy)-2-methyl-4-pyridone | 0.32 g, 100% | COCCCOC1C(=NC=CC1=O)C | C10H15NO3
